.include pmos_nmos_3p3_wrapper.spice
* Auto TB for manf_edge
.include /mnt/e/MyResearch/Mixed_ngspice/test/models/45nm_LP_BSIM4/ptm45lp.lib
.option gmin=1e-12
* NGSPICE file created from manf.ext - technology: gf180mcuC

.subckt manf_edge vreg gp op im x y ip om vdd gnd bp
X0 gnd lo lo gnd nmos_3p3 w=1.8u l=0.6u
X1 vdd hih hih vdd pmos_6p0 w=1.8u l=0.6u
X2 vreg hi hi bp pmos_3p3 w=1.5u l=0.6u
C0 hi vreg 0.11fF
C1 hih vdd 0.45fF
C2 vreg vdd 0.22fF
C3 hi bp 0.28fF
C4 vreg gp 1.01fF
C5 vreg bp 0.23fF
C6 om gnd 0.85fF
C7 ip gnd 0.58fF
C8 y gnd 0.58fF
C9 x gnd 0.58fF
C10 im gnd 0.58fF
C11 op gnd 0.84fF
C12 vreg gnd 0.44fF
C13 bp gnd 4.35fF
C14 vdd gnd 4.01fF
C15 lo gnd 0.84fF
C16 hi gnd 0.46fF
C17 hih gnd 0.46fF
.ends

.subckt manf_cell inl inr out gp vreg op im x y ip om vdd gnd bp
X0 vreg gp vdd vdd pmos_6p0 w=1.8u l=0.6u
X1 vreg inr out bp pmos_3p3 w=1.5u l=0.6u
X2 vdd gp vreg vdd pmos_6p0 w=1.8u l=0.6u
X3 d2 inr out gnd nmos_3p3 w=1.8u l=0.6u
X4 d1 inl gnd gnd nmos_3p3 w=1.8u l=0.6u
X5 out inr vreg bp pmos_3p3 w=1.5u l=0.6u
X6 vreg gp vdd vdd pmos_6p0 w=1.8u l=0.6u
X7 vreg inl out bp pmos_3p3 w=1.5u l=0.6u
X8 gnd inr d2 gnd nmos_3p3 w=1.8u l=0.6u
X9 out inl d1 gnd nmos_3p3 w=1.8u l=0.6u
X10 vdd gp vreg vdd pmos_6p0 w=1.8u l=0.6u
X11 out inl vreg bp pmos_3p3 w=1.5u l=0.6u
C0 vdd gp 0.66fF
C1 bp out 0.15fF
C2 vdd vreg 1.41fF
C3 out om 0.11fF
C4 op inl 0.20fF
C5 op inr 0.20fF
C6 inl inr 0.60fF
C7 vreg out 0.78fF
C8 bp vreg 0.92fF
C9 op out 0.11fF
C10 gp vreg 1.98fF
C11 inl out 0.17fF
C12 inr out 0.20fF
C13 bp inl 0.32fF
C14 bp inr 0.32fF
C15 inl om 0.18fF
C16 inr om 0.18fF
C17 om gnd 1.14fF
C18 ip gnd 0.79fF
C19 y gnd 0.79fF
C20 x gnd 0.79fF
C21 im gnd 0.79fF
C22 op gnd 1.13fF
C23 out gnd 1.69fF
C24 inr gnd 2.35fF
C25 inl gnd 2.36fF
C26 vreg gnd 0.72fF
C27 gp gnd 1.56fF
C28 bp gnd 6.58fF
C29 vdd gnd 6.08fF
C30 d2 gnd 0.18fF
C31 d1 gnd 0.18fF
.ends

.subckt manf ip im op om vdd gp bp vreg gnd
Xmanf_edge_0 vreg gp op im x y ip om vdd gnd bp manf_edge
Xmanf_edge_1 vreg gp op im x y ip om vdd gnd bp manf_edge
Xmanf_cell_0 im y op gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_2 om x x gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_1 y ip om gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_3 x op x gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_4 x y y gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_5 ip y om gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_6 y im op gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_7 ip y om gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_8 y im op gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_9 im y op gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_10 y ip om gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_11 om x x gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_12 x op x gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_13 x y y gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_14 ip y om gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_15 ip y om gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_16 y im op gp vreg op im x y ip om vdd gnd bp manf_cell
Xmanf_cell_17 y im op gp vreg op im x y ip om vdd gnd bp manf_cell
C0 x ip 0.23fF
C1 x vreg 0.12fF
C2 om y 0.85fF
C3 x op 0.96fF
C4 x im 0.11fF
C5 ip op 0.34fF
C6 vreg op 0.12fF
C7 ip im 0.86fF
C8 gp vdd 0.25fF
C9 op im 0.40fF
C10 x y 0.19fF
C11 om x 0.30fF
C12 vreg vdd 0.44fF
C13 y ip 1.07fF
C14 y vreg 0.15fF
C15 om ip 0.98fF
C16 y op 0.82fF
C17 om vreg 0.13fF
C18 om op 0.32fF
C19 y im 0.32fF
C20 om im 0.44fF
C21 gp vreg -1.33fF
C22 bp gnd 113.77fF
C23 vdd gnd 100.54fF
C24 manf_cell_17/d2 gnd 0.19fF $ **FLOATING
C25 manf_cell_17/d1 gnd 0.18fF $ **FLOATING
C26 manf_cell_16/d2 gnd 0.19fF $ **FLOATING
C27 manf_cell_16/d1 gnd 0.19fF $ **FLOATING
C28 manf_cell_15/d2 gnd 0.19fF $ **FLOATING
C29 manf_cell_15/d1 gnd 0.19fF $ **FLOATING
C30 manf_cell_14/d2 gnd 0.19fF $ **FLOATING
C31 manf_cell_14/d1 gnd 0.19fF $ **FLOATING
C32 manf_cell_13/d2 gnd 0.18fF $ **FLOATING
C33 manf_cell_13/d1 gnd 0.18fF $ **FLOATING
C34 manf_cell_12/d2 gnd 0.18fF $ **FLOATING
C35 manf_cell_12/d1 gnd 0.18fF $ **FLOATING
C36 manf_cell_11/d2 gnd 0.19fF $ **FLOATING
C37 manf_cell_11/d1 gnd 0.18fF $ **FLOATING
C38 manf_cell_10/d2 gnd 0.19fF $ **FLOATING
C39 manf_cell_10/d1 gnd 0.18fF $ **FLOATING
C40 manf_cell_9/d2 gnd 0.19fF $ **FLOATING
C41 manf_cell_9/d1 gnd 0.19fF $ **FLOATING
C42 manf_cell_8/d2 gnd 0.18fF $ **FLOATING
C43 manf_cell_8/d1 gnd 0.19fF $ **FLOATING
C44 manf_cell_7/d2 gnd 0.18fF $ **FLOATING
C45 manf_cell_7/d1 gnd 0.18fF $ **FLOATING
C46 manf_cell_6/d2 gnd 0.18fF $ **FLOATING
C47 manf_cell_6/d1 gnd 0.18fF $ **FLOATING
C48 manf_cell_5/d2 gnd 0.19fF $ **FLOATING
C49 manf_cell_5/d1 gnd 0.19fF $ **FLOATING
C50 manf_cell_4/d2 gnd 0.19fF $ **FLOATING
C51 manf_cell_4/d1 gnd 0.19fF $ **FLOATING
C52 manf_cell_3/d2 gnd 0.19fF $ **FLOATING
C53 manf_cell_3/d1 gnd 0.19fF $ **FLOATING
C54 manf_cell_1/d2 gnd 0.18fF $ **FLOATING
C55 manf_cell_1/d1 gnd 0.19fF $ **FLOATING
C56 manf_cell_2/d2 gnd 0.18fF $ **FLOATING
C57 manf_cell_2/d1 gnd 0.19fF $ **FLOATING
C58 om gnd 33.51fF
C59 ip gnd 26.57fF
C60 y gnd 46.95fF
C61 x gnd 33.99fF
C62 im gnd 27.50fF
C63 op gnd 33.62fF
C64 vreg gnd 4.89fF
C65 gp gnd 25.14fF
C66 manf_cell_0/d2 gnd 0.18fF $ **FLOATING
C67 manf_cell_0/d1 gnd 0.18fF $ **FLOATING
C68 manf_edge_1/lo gnd 0.85fF $ **FLOATING
C69 manf_edge_1/hi gnd 0.46fF $ **FLOATING
C70 manf_edge_1/hih gnd 0.46fF $ **FLOATING
C71 manf_edge_0/lo gnd 0.85fF $ **FLOATING
C72 manf_edge_0/hi gnd 0.46fF $ **FLOATING
C73 manf_edge_0/hih gnd 0.46fF $ **FLOATING
.ends



Vdd vdd 0 DC 1.8
Vss gnd 0 DC 0
X1 vreg gp op im x y ip om vdd gnd bp manf_edge
.op
.control
op
.endc
.end
